US05494887
9. Preparation of 4-Hydroxypyrido[3,2-d]pyrimidine-2-thiol
A mixture of 37.2 g (0.13 mol) of N-ethoxycarbonyl-N'-(2-methoxycarbonyl-3-pyridinyl)thiourea and 33 mL of 25 percent sodium methoxide in methanol (0.14 mol) in 500 mL of absolute ethanol was heated to reflux with stirring. A solid began to form after about 5 min and after 1 hour heating was discontinued and the volatile components were removed by evaporation under reduced pressure. The residue was diluted with water, acidified with acetic acid, and filtered to recover the solids. The solids were extracted on the filter with ether and then with acetone to obtain a fine powder that was difficult to filter. This was extracted with ether again (added while some acetone was still present) and, finally, with hexane to obtain the 23.3 g of title compound as a more easily filtered pale yellow granular solid melting above 300° C.

reactant | N-ethoxycarbonyl-N'-(2-methoxycarbonyl-3-pyridinyl)thiourea | 0.13 mol, 37.2 g | C(C)OC(=O)NC(=S)NC=1C(=NC=CC1)C(=O)OC | C11H13N3O4S
reactant | sodium methoxide | 33 mL | C[O-].[Na+]
reactant | methanol | 0.14 mol | CO | CH4O
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 4-Hydroxypyrido[3,2-d]pyrimidine-2-thiol | 23.3 g | OC=1C2=C(N=C(N1)S)C=CC=N2 | C7H5N3OS
